US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine
To 30 ml of tetrahydrofuran were added 4.51 g (20 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine, 190.5 mg (1 mmol) of copper (I) iodide and 324 mg (0.28 mmol) of tetrakis (triphenylphosphine)palladium, and further, 3.95 ml (40 mmol) of n butylamine and 2.94 ml (24 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 20 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=7/3). The desired fractions were put together and concentrated under reduced pressure to oil. The oil was cooled to crystallize and the crystals were suspended in cooled n-hexane. The crystals were collected by filtration and then dried to obtain 4.20 g (yield: 77%) of the above identified compound as slightly yellow crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine | 20 mmol, 4.51 g | Cl/C=C/CN(CC)CC1=CC(=CC=C1)O | C12H16ClNO
reactant | butylamine | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 24 mmol, 2.94 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 1 mmol, 190.5 mg | [Cu]I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine | yield: 77% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)O)(C)C | C18H25NO
